US08039490B2
{-4-[4-(4-Fluoro-benzoyl)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester
4-(4-fluorobenzoyl)piperidine hydrochloride (0.5 g, 2.01 mmol) was suspended in acetonitrile (5 mL), 4-(Boc-amino) Butyl Bromide was added (0.569 g, 2.01 mmol) and sodium iodide (0.461 g, 3.02 mmol) and the mixture was stirred at 80° C. overnight. Water was added and the aqueous phase was extracted with 30 mL dichloromethane. The combined organic phases were dried with magnesium sulfate, filtrated concentrated and purified with column chromatography on silica using dichloromethane/Methanol (95/0.5) to yield 0.830 g, (2.1 mmol, 100% yield) of the title compound as a brown solid. MS (m/e): 379.2 (M+H+).

reactant | 4-(4-fluorobenzoyl)piperidine hydrochloride | 2.01 mmol, 0.5 g | Cl.FC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | 4-(Boc-amino) Butyl Bromide | C(=O)(OC(C)(C)C)NCCCCBr | C9H18BrNO2
reactant | sodium iodide | 3.02 mmol, 0.461 g | [I-].[Na+]
reactant | Water | O | H2O
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | {-4-[4-(4-Fluoro-benzoyl)-piperidin-1-yl]-butyl}-carbamic acid tert-butyl ester | 2.1 mmol, 100% yield | C(C)(C)(C)OC(NCCCCN1CCC(CC1)C(C1=CC=C(C=C1)F)=O)=O | C21H31FN2O3
